US05079260
A solution of 2-methoxyfluorene (2.7 g, 13.8 mmol) in 50 mL of THF at -78° C. was charged with n-butyl lithium (0.93 g, 14.5 mmol). The reaction mixture was stirred for 15 min then CO, gaseous (5 g, 113.6 mmol) was introduced via cannula over a period of 15 min at -78° C. The reaction mixture was warmed up to room temperature and stirred for additional 2 hr until a colorless solution was obtained. The reaction mixture was diluted with 100 mL of water and 100 mL of ethyl acetate. The layers were separated, the aqueous phase was washed with ethyl acetate (5×25 mL) and acidified to pH 1 with concentrated hydrochloric acid. The precipitate was filtered off, washed with water and dried to afford 2.2 g (66.7%) of 2-methoxy-9-fluorenecarboxylic acid as colorless solid.

reactant | 2-methoxyfluorene | 13.8 mmol, 2.7 g | COC1=CC=2CC3=CC=CC=C3C2C=C1 | C14H12O
reactant | n-butyl lithium | 14.5 mmol, 0.93 g | C(CCC)[Li]
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-methoxy-9-fluorenecarboxylic acid | 2.2 g, 66.7% | COC1=CC=2C(C3=CC=CC=C3C2C=C1)C(=O)O | C15H12O3
